US04026888
2-(3'-Methyl-4'-hydroxyphenyl)glycine.
A solution of 59.02 g. (0.6 mole) of 75% glyoxylic acid in 100 ml. of water was added to a suspension of 54.6 g. (0.5 mole) of 2-methylphenol and 140 ml. of conc. ammonium hydroxide in 400 ml. of water at room temperature. The temperature of the mixture rose to 37° C. The mixture was stirred at room temperature for 65 hours. The solution, initially at pH 10.1, was adjusted to pH 6.8 with 6 N hydrochloric acid causing the product to crystallize. The product was collected by filtration, washed with water and dried in vacuo over phosphorus pentoxide giving 31.5 g. (34.8%) of 2-(3'-methyl-4'-hydroxyphenyl)glycine; decomp. 196°-199° C. The infrared and nuclear magnetic resonance spectra were consistent for the desired product. Reference: Belgium Pat. No. 774,029 to Beecham Group Limited, 1972 (Farmdoc 27, 122T) which reports m.p. 205°-207° C. Anal. Calcd. for C9H11NO3 : C, 59.66; H, 6.13; N, 7.73. Found: C, 57.68; H 6.23; N, 7.47; H2O, 2.34 Found, corrected for 2.34% H2O: C, 59.06; H, 6.12; N, 7.67.

reactant | glyoxylic acid | 0.6 mole | C(C=O)(=O)O | C2H2O3
reactant | 2-methylphenol | 0.5 mole | CC1=C(C=CC=C1)O | C7H8O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | O | H2O
product | 2-(3'-Methyl-4'-hydroxyphenyl)glycine | CC=1C=C(C=CC1O)C(N)C(=O)O | C9H11NO3
